US07375204B2
1-{4-[2-(2,2-Dimethyl-1,3-dioxolan-4-yl)-1-ethynyl]benzyl}-isoquinoline
2,2-Dimethoxypropane (0.36 ml), 10-camphorsulfonic acid (43 mg), and molecular sieves (4 Å) were added to a solution of the compound of Example B109 (34 mg) in dimethylformamide (2 ml), and this reaction mixture was stirred at 75° C. for 9 hours. After an saturated aqueous sodium carbonate solution was added, the reaction mixture was extracted with ethyl acetate, washed with water, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (14 mg).

reactant | 2,2-Dimethoxypropane | 0.36 ml | COC(C)(C)OC | C5H12O2
reactant | 10-camphorsulfonic acid | 43 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-{4-[2-(2,2-Dimethyl-1,3-dioxolan-4-yl)-1-ethynyl]benzyl}-isoquinoline | 14 mg | CC1(OCC(O1)C#CC1=CC=C(CC2=NC=CC3=CC=CC=C23)C=C1)C | C23H21NO2
